US08211513B2
18.0 g (36.2 mmol) of 4-bromo-5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran are hydrogenated for 30 h at a hydrogen pressure of 5 bar and at 80° C. in toluene/water in the presence of Pd/C (5% of Pd) and 12.7 ml (88.1 mmol) of triethylamine. The organic phase is separated off and filtered absorptively (SiO2, toluene). The filtrate is concentrated to dryness, and the residue is recrystallised from ethanol at reduced temperature, giving 5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran as a colourless solid.

reactant | 4-bromo-5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran | 36.2 mmol, 18.0 g | BrC1CC(OCC1CC)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C19H27BBrFO3
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 88.1 mmol, 12.7 ml | C(C)N(CC)CC | C6H15N
solvent | toluene water | C1(=CC=CC=C1)C.O
catalyst | Pd/C | [Pd] | Pd
product | 5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran | C(C)C1CCC(OC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C19H28BFO3
